US08198453B2
A mixture of 10 M H3B.S2Me in THF (47.7 mL, 0.477 mol) and 1 M R-CBS-oxazaborolidine in toluene (72 mL, 0.072 mol) were dissolved in 100 mL anhydrous THF and cooled to −15° C. (R)-tert-butyl 3-(3-chloro-5-fluorobenzoyl)piperidine-1-carboxylate in 400 mL anhydrous THF was added dropwise to the above solution and stirred at −15° C. for 2 hr. The reaction was quenched with methanol (500 mL). The solvent was removed under reduced pressure and the residue was purified by column chromatography. The product was re-crystallized three times with EtOAc/Hexanes to give (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (55 g, 0.156 mol). 1H NMR (CDCl3, 400 MHz) δ 7.10 (s, 1H), 7.04-6.90 (dd, 2H), 4.46-4.30 (d, 1H), 4.05-2.40 (m, 5H), 1.74 (s, 1H), 1.60 (s, 1H), 1.53-1.31 (m, 1H), 1.30-1.14 (m, 1H).

reactant | H3B | 10 M | B | BH3
reactant | toluene | 0.072 mol, 72 mL | C1(=CC=CC=C1)C | C7H8
reactant | (R)-tert-butyl 3-(3-chloro-5-fluorobenzoyl)piperidine-1-carboxylate | ClC=1C=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C(C1)F | C17H21ClFNO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 0.477 mol, 47.7 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 0.156 mol, 55 g | ClC=1C=C(C=C(C1)F)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H23ClFNO3
